US08357707B2
a) 3,3,3-Trifluoro-2,2-dimethyl-propionamide
A mixture of 2 g (12.81 mmol) 3,3,3-trifluoro-2,2-dimethylpropionic acid (Aldrich), 2.077 g (12.81 mmol) carbonyl-diimidazole and 5.55 ml (64.1 mmol) aqueous ammonia in 50 ml CH2Cl2 was stirred at room temperature for 20 h. After that, diethyl ether was added and the resulting mixture was washed with 0.1 N HCL, 0.1 N NaOH, water and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to afford 1.15 g of the title compound as white crystals, that were used in the next step without further purification. MS: M+H=156.

reactant | 3,3,3-trifluoro-2,2-dimethylpropionic acid | 12.81 mmol, 2 g | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | carbonyl-diimidazole | 12.81 mmol, 2.077 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ammonia | 64.1 mmol, 5.55 ml | N | H3N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,3,3-Trifluoro-2,2-dimethyl-propionamide | 1.15 g | FC(C(C(=O)N)(C)C)(F)F | C5H8F3NO
